US09216173B2
The 1:1 regioisomeric mixture of N-benzyl-4-methyl-6-(2H-1,2,3-triazol-2-yl)pyridin-2-amine (316 mg, 1.19 mmol) and N-benzyl-4-methyl-6-(1H-1,2,3-triazol-1-yl)pyridin-2-amine (316 mg, 1.19 mmol) from the previous step was dissolved in methanol (10 mL). Hydrochloric acid (37% in water, 1.96 mL, 23.8 mmol) and palladium on carbon (127 mg, 0.119 mmol, 10 wt %) were added. The flask was fitted with a hydrogen balloon and evacuated and backfilled with hydrogen (3×). The reaction mixture was stirred under an atmosphere of hydrogen for 14 hours. The reaction mixture was filtered, diluted with sodium hydroxide (1.0 M in water, 30 mL, 30 mmol), and extracted with ethyl acetate (3×). The combined organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification by silica gel chromatography (25-50% ethyl acetate/hexanes, linear gradient) afforded 4-methyl-6-(2H-1,2,3-triazol-2-yl)pyridin-2-amine. MS ESI calc'd. for C8H10N5 [M+H]+ 176. found 176. 1H NMR (500 MHz, CD3OD) δ 7.93 (s, 2H), 7.11 (s, 1H), 6.40 (s, 1H), 2.30 (s, 3H).

reactant | N-benzyl-4-methyl-6-(2H-1,2,3-triazol-2-yl)pyridin-2-amine | 1.19 mmol, 316 mg | C(C1=CC=CC=C1)NC1=NC(=CC(=C1)C)N1N=CC=N1 | C15H15N5
reactant | N-benzyl-4-methyl-6-(1H-1,2,3-triazol-1-yl)pyridin-2-amine | 1.19 mmol, 316 mg | C(C1=CC=CC=C1)NC1=NC(=CC(=C1)C)N1N=NC=C1 | C15H15N5
reactant | Hydrochloric acid | 23.8 mmol, 1.96 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 30 mmol, 1.0 M, 30 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | 0.119 mmol, 127 mg | [Pd] | Pd
product | 4-methyl-6-(2H-1,2,3-triazol-2-yl)pyridin-2-amine | CC1=CC(=NC(=C1)N1N=CC=N1)N | C8H9N5
